US07166599B2
a) 2-methylsulphenyl-4-hydroxy-5-(4-methoxybenzylsulphenyl)-pyrimidine
Prepared from methyl 4-methoxybenzylsulphenyl-acetate and ethyl formate in the presence of sodium and subsequent reaction with S-methylisothiourea-sulphate in ethanol, Rf value: 0.4 (silica gel; methylene chloride/methanol/conc. aqueous ammonia=20:1:0.1)

reactant | methyl 4-methoxybenzylsulphenyl-acetate | COC1=CC=C(CSCC(=O)OC)C=C1 | C11H14O3S
reactant | ethyl formate | C(=O)OCC | C3H6O2
reactant | sodium | [Na] | Na
reactant | S-methylisothiourea sulphate | CSC(N)=N.S(=O)(=O)([O-])[O-]
reactant | ammonia | N | H3N
solvent | ethanol | C(C)O | C2H6O
solvent | methylene chloride methanol | C(Cl)Cl.CO
product | 2-methylsulphenyl-4-hydroxy-5-(4-methoxybenzylsulphenyl)-pyrimidine | CSC1=NC=C(C(=N1)O)SCC1=CC=C(C=C1)OC | C13H14N2O2S2
